US03940486
a. benzyl-(3-pyridyl)-ketone
The mixture of 27.4 g (0.2 mol) of nicotinic acid methyl ester and 30 g (0.2 mol) of phenylacetic acid methyl ester is treated in small amounts under nitrogen with 16.2 g (0.3 mol) of sodium methylate at 20°-25°C. The reaction mixture is stirred for 20 hours at 60°-70°C, in the process of which the alcohol which is formed is blown off. Then 60 ml of concentrated hydrochloric acid is added dropwise to the solid substance and the mixture is boiled for 3 hours under reflux. The still hot yellow solution is treated with 30 ml of water and cooled to 50°C. Then 60 ml of chloroform are added and the reaction mixture is cooled to 5°C. The white crystals which form are collected by suction filtration and washed with chloroform; they melt at 225°C (from ethanol).

reactant | nicotinic acid methyl ester | 0.2 mol, 27.4 g | COC(C1=CN=CC=C1)=O | C7H7NO2
reactant | phenylacetic acid methyl ester | 0.2 mol, 30 g | COC(CC1=CC=CC=C1)=O | C9H10O2
reactant | sodium methylate | 0.3 mol, 16.2 g | C[O-].[Na+]
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 30 ml | O | H2O
product | benzyl-(3-pyridyl)-ketone | C(C1=CC=CC=C1)C(=O)C=1C=NC=CC1 | C13H11NO
